US07268232B2
(1R,2R,3S,5S)-3-Benzoyloxy-8-(4-cyanonaphthalen-1-yl)-8-azabicyclo[3.2.1]octane-2-carboxylic acid methyl ester (195JP02A)
Adapting a protocol by Wolfe and Buchwald (Tetrahedron Lett., 1997, 37, 6359-6362), 1-bromo-4-cyanonaphthalene (124 mg, 0.53 mmol, Cakmak O. et al., Collect. Czech. Chem. Commun. 2000, 65, 1791-1804), norcocaine (185 mg, 0.64 mmol), Pd2(dba)3 (23.8 mg, 0.026 mmol), rac-BINAP (24.7 mg, 0.040 mmol) and caesium carbonate (242 mg, 0.74 mmol) were placed in an argon flushed vial, toluene (1.0 mL) was added and the resulting mixture was stirred under argon atmosphere at 110° C. overnight. The crude was then concentrated in vacuo and purification by preparative TLC (ethyl acetate/n-heptane 1:4, 4× eluted) afforded the title compound (68 mg, 29%) as an oil.

reactant | 1-bromo-4-cyanonaphthalene | BrC1=CC=C(C2=CC=CC=C12)C#N | C11H6BrN
reactant | norcocaine | 0.64 mmol, 185 mg | COC(=O)[C@@H]1[C@H]2CC[C@H](N2)C[C@@H]1OC(=O)C3=CC=CC=C3 | C16H19NO4
reactant | rac-BINAP | 0.040 mmol, 24.7 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | caesium carbonate | 0.74 mmol, 242 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.026 mmol, 23.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | (1R,2R,3S,5S)-3-Benzoyloxy-8-(4-cyanonaphthalen-1-yl)-8-azabicyclo[3.2.1]octane-2-carboxylic acid methyl ester | 68 mg, 29% | COC(=O)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1OC(C1=CC=CC=C1)=O)N2C2=CC=C(C1=CC=CC=C21)C#N | C27H24N2O4
